US06809199B2
To a solution of t-butyl 3-(2,6-dibromo-4-methoxyphenyl)-propionate (1.32 g) in 3.6 mL of an isole was added 20 mL of trifluoroacetic acid dropwise. The resulting mixture was stirred for 20 min at room temperature, then concentrated. The resulting residue was redissolved in 20 mL of EtOAc and extracted with 40 mL of pH 4 buffer solution. The aqueous phase was extracted with 2×20 mL of EtOAc and the combined resulting organics were washed with 20 mL of brine, dried over MgSO4, and concentrated to yield 3-(2,6-dibromo-4-methoxyphenyl)-propionic acid as a pale yellow solid. 1H NMR (500 MHz, CDCl3): δ 7.09 (s, 2H); 3.77 (s, 3H); 3.27 (m, 2H); 2.62 (m, 2H).

reactant | t-butyl 3-(2,6-dibromo-4-methoxyphenyl)-propionate | 1.32 g | BrC1=C(C(=CC(=C1)OC)Br)CCC(=O)OC(C)(C)C | C14H18Br2O3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2,6-dibromo-4-methoxyphenyl)-propionic acid | BrC1=C(C(=CC(=C1)OC)Br)CCC(=O)O | C10H10Br2O3
